US04256640
By the same procedure as in Example 39(2), 7-trifluoromethyl-4-(N-t-butoxycarbonyl-N-methylaminomethyl)-2,3,4,9-tetrahydrothiopyrano[2,3-b]indole (1.5 g) is made to react with 3-bromopropyl chloride followed by the reaction to remove the butoxycarbonyl group to give 9-(3-chloropropyl)-7-trifluoromethyl-4-methylaminomethyl-2,3,4,9-tetrahydrothiopyrano[2,3-b]indole. Ethanol (15 ml) and a 50% aqueous solution of dimethylamine are added to the product. The solution is heated at 90°-95° C. in a sealed-tube for 8 hours and evaporated to remove the solvent. The residue is dissolved in chloroform and extracted with dilute hydrochloric acid. The extract is adjusted to pH 8 with an aqueous solution of sodium hydroxide and extracted with chloroform. The extract is washed with water, dried and condensed to give the title compound (1.28 g).

reactant | 7-trifluoromethyl-4-(N-t-butoxycarbonyl-N-methylaminomethyl)-2,3,4,9-tetrahydrothiopyrano[2,3-b]indole | 1.5 g | FC(C1=CC=C2C3=C(NC2=C1)SCCC3CN(C)C(=O)OC(C)(C)C)(F)F | C19H23F3N2O2S
reactant | 3-bromopropyl chloride | BrCCCCl | C3H6BrCl
product | 9-(3-chloropropyl)-7-trifluoromethyl-4-methylaminomethyl-2,3,4,9-tetrahydrothiopyrano[2,3-b]indole | ClCCCN1C2=C(C3=CC=C(C=C13)C(F)(F)F)C(CCS2)CNC | C17H20ClF3N2S
